US05149696
1-chloro-7-heptanol (used in Step A of Preparation 3)
A mixture of 44 g of heptane diol, 400 ml of concentrated hydrochloric acid, 150 ml of toluene and 50 ml of water was stirred for two and half hours at reflux. The toluene fraction was removed and 200 ml of toluene were added to the aqueous fraction and the mixture was heated for five hours at 85° C. to 90° C. The toluene was removed and 200 ml of toluene and 100 ml of concentrated hydrochloric acid were added to the aqueous phase. The mixture was heated for five hours, then cooled and the organic fraction was combined with the two preceding toluene fractions. The toluene fraction was washed with water, dried and evaporated to dryness under reduced pressure, then distilled at 70° C. under 0.5 mm of mercury to obtain 37 g of the desired product.

reactant | heptane diol | 44 g | C(CCCCCC)(O)O | C7H16O2
reactant | hydrochloric acid | 400 ml | Cl | ClH
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
product | 1-chloro-7-heptanol | 37 g | ClCCCCCCCO | C7H15ClO
